US08304539B2
To a suspension of ethyl 5-amino-1,3,4-thiadiazole-2-carboxylate (200 mg, 1.155 mmol) in methanol (1.5 mL) was added a 70% aqueous solution of ethylamine (0.5 mL, 6.29 mmol). The mixture was stirred at room temperature overnight, concentrated, mixed with water and lyophilized to give 5-amino-N-ethyl-1,3,4-thiadiazole-2-carboxamide as a yellowish solid (200 mg). MS (ES+) m/z: 173 (M+H); LC retention time: 0.70 min (analytical HPLC Method A).

reactant | ethyl 5-amino-1,3,4-thiadiazole-2-carboxylate | 1.155 mmol, 200 mg | NC1=NN=C(S1)C(=O)OCC | C5H7N3O2S
reactant | ethylamine | 6.29 mmol, 0.5 mL | C(C)N | C2H7N
solvent | methanol | 1.5 mL | CO | CH4O
product | 5-amino-N-ethyl-1,3,4-thiadiazole-2-carboxamide | 200 mg | NC1=NN=C(S1)C(=O)NCC | C5H8N4OS
